US08609680B2
Preparation of tert-Butyl 2-((R)-5-(5-cyanopyrazin-2-yl)-2,3-dihydro-1H-inden-1-yl)-2,7-diazaspiro[3.5]nonane-7-carboxylate (10-1a)
To a solution of tert-butyl 2-[(1R)-5-bromo-2,3-dihydro-1H-inden-1-yl]-2,7-diazaspiro[3.5]nonane-7-carboxylate (3-1a, 700 mg, 1.66 mmol) in anhydrous dioxane (10 mL) was added bis(pinacolato)diboron (473 mg, 1.86 mmol) and potassium acetate (659 mg, 6.71 mmol). The mixture was purged with nitrogen for 15 minutes. Pd(dppf)Cl2 (62 mg, 0.07 mmol) was added and the reaction mixture was purged with nitrogen for an additional 15 minutes. The reaction was heated to 110° C. under nitrogen for 5 hours. TLC indicated the complete consumption of the starting material (3-1a). The reaction was cooled to room temperature and 5-chloropyrazine-2-carbonitrile (278 mg, 1.99 mmol), Pd(dppf)Cl2 (62 mg, 0.07 mmol) and 5.81 mL of 2M aqueous K2CO3 solution (de-oxygenated with a stream of nitrogen for 15 minutes prior to addition) were added. The reaction was purged with nitrogen (3×) and was heated for 20 hours at 110° C. The reaction was cooled and concentrated in vacuo. The residue was partitioned between 50 mL of ethyl acetate and 50 mL of 1N NaOH solution. The organics layer was washed with 50 mL of brine, dried (Na2SO4) and concentrated to give crude product as black semi-solid. The crude product was purified via silca gel chromatography using a Combiflash ISCO purification system (Teledyne Corp., Lincoln, Nebr.) system, eluting with 0-100% EtOAc:heptanes to give the title compound as a brown solid (440 mg, 59%). MS (ES+) 446.3 (M+H)+. 1H NMR (DMSO-d6) δ 1.39 (s, 9H), 1.56-1.64 (m, 4H), 1.81-1.92 (m, 1H), 2.06 (dd, 1H), 2.77-2.87 (m, 1H), 2.92-3.04 (m, 3H), 3.12 (d, 2H), 3.24-3.28 (m, 4H), 3.86 (dd, 1H), 7.41 (d, 1H), 7.55 (d, 1H), 7.62-7.68 (m, 1H), 8.09 (s, 1H), 8.90 (s, 1H).

reactant | tert-butyl 2-[(1R)-5-bromo-2,3-dihydro-1H-inden-1-yl]-2,7-diazaspiro[3.5]nonane-7-carboxylate | 1.66 mmol, 700 mg | BrC=1C=C2CC[C@H](C2=CC1)N1CC2(C1)CCN(CC2)C(=O)OC(C)(C)C | C21H29BrN2O2
reactant | bis(pinacolato)diboron | 1.86 mmol, 473 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 6.71 mmol, 659 mg | C(C)(=O)[O-].[K+]
reactant | 5-chloropyrazine-2-carbonitrile | 1.99 mmol, 278 mg | ClC=1N=CC(=NC1)C#N | C5H2ClN3
reactant | K2CO3 | 2M, 5.81 mL | C(=O)([O-])[O-].[K+].[K+]
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(dppf)Cl2 | 0.07 mmol, 62 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
catalyst | Pd(dppf)Cl2 | 0.07 mmol, 62 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | tert-Butyl 2-((R)-5-(5-cyanopyrazin-2-yl)-2,3-dihydro-1H-inden-1-yl)-2,7-diazaspiro[3.5]nonane-7-carboxylate | 440 mg, 59% | C(#N)C=1N=CC(=NC1)C=1C=C2CC[C@H](C2=CC1)N1CC2(C1)CCN(CC2)C(=O)OC(C)(C)C | C26H31N5O2
